US05008273
(a) Nα -Benzyloxycarbonyl-Nε -(tert.-butyloxycarbo nylglycyl)-L-lysine
9 g of Nα -benzyloxycarbonyl-L-lysine, 5.6 g of tert.-butyloxycarbonylglycine, 3.2 g of triethylamine, 4.9 g of 1-hydroxybenzotriazole and 7.9 g of N,N'-dicyclohexylcarbodiimide are stirred in 100 ml of THF/DMF (7:3) for 1 hour at 0° C. and over night at ambient temperature. After the urea has been filtered off the mixture is concentrated by evaporation, the residue is taken up in ethyl acetate, extracted with saturated KHSO4 solution, washed with water, dried over MgSO4 and concentrated by evaporation in vacuo. The residue is chromatographed over silica gel with methylene chloride/ethyl acetate/methanol (10:1:1). 12.5 g (100% of theory) are obtained in the form of a colourless oil.

reactant | Nα -benzyloxycarbonyl-L-lysine | 9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCN)C(=O)O | C14H20N2O4
reactant | tert.-butyloxycarbonylglycine | 5.6 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-hydroxybenzotriazole | 4.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 7.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF DMF | 100 ml | C1CCOC1.CN(C)C=O
solvent | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
product | Nα -Benzyloxycarbonyl-Nε -(tert.-butyloxycarbo nylglycyl)-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(CNC(=O)OC(C)(C)C)=O)C(=O)O | C21H31N3O7
